US06455528B1
(3) N-{[4-(1-Hydroxyethyl)phenyl]methyl}acetamide
To a solution of N-[(4-acetylphenyl)methyl]acetamide (6.1 g) in methanol (50 ml) was added sodium borohydride (1.2 g) under ice-cooling. This reaction mixture was stirred at 5-7° C. for 2 hr. Thereto was added 2% hydrochloric acid and extracted with ethyl acetate (100 ml×3). The ethyl acetate layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a brown oil (6.3 g). The obtained brown oil was purified by silica gel column chromatography (developing solvent; chloroform:methanol=9:1) to give the title compound (5.98 g) as a pale-brown oil, m.p.=61-62° C.

reactant | N-[(4-acetylphenyl)methyl]acetamide | 6.1 g | C(C)(=O)C1=CC=C(C=C1)CNC(C)=O | C11H13NO2
reactant | sodium borohydride | 1.2 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | N-{[4-(1-Hydroxyethyl)phenyl]methyl}acetamide | 6.3 g | OC(C)C1=CC=C(C=C1)CNC(C)=O | C11H15NO2
